US06884801B1
3-methyl-5-(2-nitrophenyl)-1,2,4-oxadiazole (1.0 g, 4.8 mmol) in dioxane (11 mL) at 80°0 C. was treated with 11 mL of an aqueous solution of sodium sulfide nonahydrate (2.55 g, 10.6 mmol), also at 80° C. After stirring at that temperature for 45 minutes, the reaction was diluted with water (15 mL) and cooled in an ice bath. The resulting precipitate was collected by filtration and rinsed with water to afford 3-methyl-5-(2-aminophenyl)-1,2,4-oxadiazole (522 mg).

reactant | 3-methyl-5-(2-nitrophenyl)-1,2,4-oxadiazole | 4.8 mmol, 1.0 g | CC1=NOC(=N1)C1=C(C=CC=C1)[N+](=O)[O-] | C9H7N3O3
reactant | sodium sulfide nonahydrate | 10.6 mmol, 2.55 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | dioxane | 11 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
product | 3-methyl-5-(2-aminophenyl)-1,2,4-oxadiazole | 522 mg | CC1=NOC(=N1)C1=C(C=CC=C1)N | C9H9N3O
